US05708008
N-phenethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 15.0 mg (0.0655 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 12.51 mg (0.0852 mMol) 2-phenethyl isocyanate, 15.8 mg (65%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.0655 mMol, 15.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 2-phenethyl isocyanate | 0.0852 mMol, 12.51 mg | C1=CC=C(C=C1)CCN=C=O | C9H9NO
product | N-phenethyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 15.8 mg, 65% | C(CC1=CC=CC=C1)NC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C23H28N4O
